US04728414
Into a 250 ml, four-necked flask fitted with a mechanical stirrer, nitrogen inlet, thermometer port, and a reflux condenser, was charged 50.0 g. of the above product and 100.0 g. of cyclohexane. With stirring, the mixture was heated to reflux under a blanket of nitrogen. 0.3 g. of Lucidol 70® was added. After three hours, the mixture had become very viscous and 0.1 g. of p-methoxy phenol was added. The reaction mixture was then poured into 500 ml of methanol and the polymer, poly (lignoceryl methacrylate) was isolated by vacuum filtration.

reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | Lucidol 70 | C1=CC=C(C=C1)C(=O)OOC(=O)C2=CC=CC=C2 | C14H10O4
reactant | p-methoxy phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | methanol | 500 ml | CO | CH4O
product | lignoceryl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCCCCCCCC | C28H54O2
